US06451821B1
A mixture of 0.94 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]thiourea in 9.2 cm3 of 6N hydrochloric acid is heated at a temperature in the region of 100° C. with stirring for 3 hours and is then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. A greenish oil is obtained, which is taken up in 10 cm3 of acetone to give a sticky gum. 1.5 cm3 of ethanol are then added, followed by dropwise addition, with stirring, of 6 cm3 of diethyl ether. The crystals obtained are filtered off on a sinter funnel, washed with diethyl ether and then dried in an oven under vacuum (10 Pa) at a temperature in the region of 50° C. 0.5 g of (−)-(4R)-4-(3-thienylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of gray crystals melting at 152° C. 1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 2.99 (mt: 2H); 3.26 (dd, J=11 and 5.5 Hz: 1H); 3.59 (dd, J=11 and 8 Hz: 1H); 4.54 (mt: 1H); 7.10 (dd, J=5.5 and 1 Hz 1H); 7.38 (mt: 1H); 7.54 (dd, J=5 and 3 Hz: 1H); from 9.15 to 10.55 (broad unres. mult.: 3H). (αD20=−4.3±0.5 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]thiourea | 0.94 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CSC=C1 | C12H20N2OS2
reactant | ethanol | 1.5 cm3 | C(C)O | C2H6O
reactant | diethyl ether | 6 cm3 | C(C)OCC | C4H10O
reactant | hydrochloric acid | 6N, 9.2 cm3 | Cl | ClH
solvent | acetone | 10 cm3 | CC(=O)C | C3H6O
product | (−)-(4R)-4-(3-thienylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.5 g | Cl.S1C=C(C=C1)C[C@H]1N=C(SC1)N | InChI=1S/C8H10N2S2.ClH/c9-8-10-7(5-12-8)3-6-1-2-11-4-6;/h1-2,4,7H,3,5H2,(H2,9,10);1H/t7-;/m1./s1
